US06653330B2
4-[trans-5-[[(1R,2R)-2-(2,4-Difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-N-(2-thiazolyl)benzamide and cis isomer Thereof (Exemplification Compound Number 20-1)
In the same manner as that described in Example 1(2), a reaction was carried out using 4-formyl-N-(2-thiazolyl)benzamide, obtained in Example 27(1) (200 mg, 0.86 mmol), (2R,3R)-2-(2,4-difluorophenyl)-3-[[1-(hydroxymethyl)-2-hydroxyethyl]thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol (270 mg, 0.75 mmol) and p-toluenesulfonic acid monohydrate (357 mg, 1.88 mmol) and the reaction mixture was treated using a similar procedure to that described in Example 1(2) to afford the trans isomer of the title compound (64 mg, yield 15%) as a white oil and the cis isomer (29 mg, yield 7%) as a colorless oil. The trans isomer was recrystallized from tetrahydrofuran-hexane to give white powdery crystals.

reactant | 4-formyl-N-(2-thiazolyl)benzamide | C(=O)C1=CC=C(C(=O)NC=2SC=CN2)C=C1 | C11H8N2O2S
reactant | (2R,3R)-2-(2,4-difluorophenyl)-3-[[1-(hydroxymethyl)-2-hydroxyethyl]thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol | 0.75 mmol, 270 mg | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)SC(CO)CO)O | C15H19F2N3O3S
reactant | p-toluenesulfonic acid monohydrate | 1.88 mmol, 357 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 4-[trans-5-[[(1R,2R)-2-(2,4-Difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-N-(2-thiazolyl)benzamide | 64 mg, yield 15% | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)S[C@H]1CO[C@@H](OC1)C1=CC=C(C(=O)NC=2SC=CN2)C=C1)(CN1N=CN=C1)O | C26H25F2N5O4S2
